US04008313
300 mg. of 6α-fluoro-11β-hydroxy-21-hexanoyloxy-16α-methyl-1,4,8-pregnatriene-3,20-dione is dissolved in 7.5 ml. of acetone, combined with 0.36 ml. of a chromium (VI) oxide solution, and stirred for 1 hour at room temperature. The reaction solution is stirred into ice water; the thus-formed precipitate is vacuum-filtered and dissolved in methylene chloride. The methylene chloride solution is washed neutral, dried, and evaporated under vacuum. The crude product is purified by chromatography, and recrystallization from hexane-acetone yields 6α-fluoro-21-hexanoyloxy-16α-methyl-1,4,8-pregnatriene-3,11,20-trione, m.p. 159° C.

reactant | 6α-fluoro-11β-hydroxy-21-hexanoyloxy-16α-methyl-1,4,8-pregnatriene-3,20-dione | F[C@H]1CC=2[C@@H]3C[C@H]([C@H](C(COC(CCCCC)=O)=O)[C@]3(C[C@@H](C2[C@]2(C=CC(C=C12)=O)C)O)C)C | C28H37FO5
catalyst | chromium (VI) oxide | [O-2].[Cr+6].[O-2].[O-2]
solvent | acetone | CC(=O)C | C3H6O
product | 6α-fluoro-21-hexanoyloxy-16α-methyl-1,4,8-pregnatriene-3,11,20-trione | F[C@H]1CC=2[C@@H]3C[C@H]([C@H](C(COC(CCCCC)=O)=O)[C@]3(CC(C2[C@]2(C=CC(C=C12)=O)C)=O)C)C | C28H35FO5
